US09120749B2
1-(6-bromo-4-((1-(dimethylamino)-2,3-dihydro-1H-inden-5-yl)amino)quinolin-3-yl)ethanone
Following general procedure C, 1-(6-bromo-4-chloroquinolin-3-yl)ethanone (256 mg, 0.90 mmol) was reacted with N1,N1-dimethyl-2,3-dihydro-1H-indene-1,5-diamine dihydrochloride (0.814 mmol) to afford the desired product (19 mg, 5.5%) as a yellow-brown solid. ESI MS m/z 424 [C22H22BrN3O+H]+

reactant | 1-(6-bromo-4-chloroquinolin-3-yl)ethanone | 0.90 mmol, 256 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)Cl | C11H7BrClNO
reactant | N1,N1-dimethyl-2,3-dihydro-1H-indene-1,5-diamine dihydrochloride | 0.814 mmol | Cl.Cl.CN(C1CCC2=CC(=CC=C12)N)C
product | 1-(6-bromo-4-((1-(dimethylamino)-2,3-dihydro-1H-inden-5-yl)amino)quinolin-3-yl)ethanone | 19 mg, 5.5% | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)NC=1C=C2CCC(C2=CC1)N(C)C | C22H22BrN3O
